US07893073B2
Allyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carboxylate
45.0 g ethyl polyphosphate are dissolved in 150 ml dioxane, 15.0 g (73.5 mmol) N-[3-(trifluoromethyl)phenyl]urea, 19.3 g (147 mmol) 4-cyanobenzaldehyde and 20.9 g (147 mmol) allyl aceto-acetate are added, and the mixture is stirred under reflux overnight. Volatiles are evaporated in vacuo, the remainder is dissolved in ethyl acetate and sequentially washed with saturated sodium hydrogencarbonate, sodium hydrogensulfite and sodium chloride solution. The organic phase is dried over magnesium sulfate, filtered and evaporated to dryness in vacuo. The crude product is purified by column chromatography over silica gel (eluent: cyclohexane/ethyl acetate).

reactant | N-[3-(trifluoromethyl)phenyl]urea | 73.5 mmol, 15.0 g | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 147 mmol, 19.3 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | allyl aceto-acetate | 147 mmol, 20.9 g | C(CC(=O)C)(=O)OCC=C | C7H10O3
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | Allyl 4-(4-cyanophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydropyrimidine-5-carboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC=C)C)C1=CC(=CC=C1)C(F)(F)F)=O | C23H18F3N3O3
